US03979513
m-Trifluoromethylbromobenzene (48 g.) in dry ether (160 ml.) is added dropwise and with stirring to magnesium turnings (5.2 g.) just covered with dry ether. After the addition of the first 10 ml. of solution, reaction is initiated by introduction of a crystal of iodine and the addition is then continued at such a rate as to maintain gentle refluxing. When all the m-trifluoromethylbromobenzene has been added and the reaction has subsided, m-methoxybenzaldehyde (27.2 g.) in dry ether (160 ml.) is added dropwise to the stirred Grignard reagent at such a rate as to maintain gentle refluxing. When all the m-methoxybenzaldehyde has been added, the reaction mixture is heated under reflux for 2 hours and then allowed to cool. Excess saturated aqueous ammonium chloride is added, the ethereal layer is separated, washed with water and with brine, dried (MgSO4) and the ether evaporated to give an oil which crystallises and is recrystallised from petroleum ether (b.p. 40°-60°C.) to give 3-methoxy-3'-trifluoromethylbenzhydrol, m.p. 51°-52°C.

reactant | m-Trifluoromethylbromobenzene | 48 g | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | magnesium | 5.2 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | m-methoxybenzaldehyde | 27.2 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 160 ml | CCOCC | C4H10O
solvent | ether | 160 ml | CCOCC | C4H10O
product | 3-methoxy-3'-trifluoromethylbenzhydrol | COC=1C=C(C(C2=CC(=CC=C2)C(F)(F)F)O)C=CC1 | C15H13F3O2
